US07592373B2
5.3.a. (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-hydroxymethylphenyl)acrylamide
A solution of 4.4 g (12.16 mmol) of (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)acrylamide in 200 mL of THF is adjusted with glacial acetic acid to a pH of three, combined with 8.14 g (36.48 mmol) of sodium triacetoxyborohydride, and stirred for 18 hours at ambient temperature. Then the reaction mixture is poured into water and the precipitate is filtered off. The filtrate is extracted with ethyl acetate, washed with water, and dried over sodium sulfate. The solvent is removed and the residue is combined with the solid which has been filtered off. The purification is carried out by column chromatography on silica gel (eluant: dichloromethane/ethanol/ammonia (30:1:0.1)). Yield: 3.2 g (72.4% of theory); C22H18ClNO2 (M=363.84); calc.: molecular ion peak (M+H)+: 364/366; found: molecular ion peak (M+H)+: 364/366; Rf value: 0.2 (silica gel, dichloromethane/ethanol (20:1)).

reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)acrylamide | 12.16 mmol, 4.4 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)C=O)=O | C22H16ClNO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 36.48 mmol, 8.14 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-hydroxymethylphenyl)acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CO)=O | C22H18ClNO2
